US07410963B2
5-(3-Hex-1-ynyl-phenyl)-8-methoxy-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one
To 10 mL of degazed acetonitrile, 5-(3-bromo-phenyl)-8-methoxy-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one Example 62 (200 mg, 0.46 mmol), phenylacetylene (715 μL, 2.30 mmol), copper iodide (15 mg, 0.08 mmol), triphenylphosphine (30 mg, 0.11 mmol), PdCl2 (10 mg, 0.06 mmol) and triethylamine (0.9 mL) were added. The mixture was stirred for 16 hours at 50° C. under nitrogen atmosphere. The working solution was evaporated under vacuum. The residue was partitioned from water and ethyl acetate and extracted two more times with ethyl acetate. The organic phase was dried over Na2SO4 and concentrated until dryness. The residue was purified by chromatography (eluant: Hexane/EtOAc: 1/1). The title compound was crystallised from ether/pentane to afford 134 mg of the title compound: beige solid, yield=90%.

reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
reactant | 5-(3-bromo-phenyl)-8-methoxy-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | BrC=1C=C(C=CC1)C=1C2=C(N(C(CN1)=O)C)C=C(C(=C2)C2=CC=CC=C2)OC | C23H19BrN2O2
reactant | phenylacetylene | 2.30 mmol, 715 μL | C1(=CC=CC=C1)C#C | C8H6
reactant | triphenylphosphine | 0.11 mmol, 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | copper iodide | 0.08 mmol, 15 mg | [Cu](I)I
catalyst | PdCl2 | 0.06 mmol, 10 mg | Cl[Pd]Cl
solvent | triethylamine | 0.9 mL | C(C)N(CC)CC | C6H15N
product | 5-(3-Hex-1-ynyl-phenyl)-8-methoxy-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 134 mg, yield=90% | C(#CCCCC)C=1C=C(C=CC1)C=1C2=C(N(C(CN1)=O)C)C=C(C(=C2)C2=CC=CC=C2)OC | C29H28N2O2
